2176-07-15 07:26:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:  No overnight events- patient denied any chest pain,
   jaw pain, shortness of breath, dizziness.
   Allergies:
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2176-7-15**] 07:20 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.7
C (98.1
   HR: 82 (67 - 86) bpm
   BP: 134/69(85) {91/47(57) - 137/101(109)} mmHg
   RR: 18 (14 - 25) insp/min
   SpO2: 95%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 76.4 kg (admission): 76.4 kg
                  Total In:
                                                                    530 mL
                  PO:
                                                                    530 mL
                  TF:
   IVF:
   Blood products:
   Total out:
                                                                  1,156 mL
                                                                    191 mL
   Urine:
                                                                    356 mL
                                                                    191 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -626 mL
                                                                   -191 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ///34/
   Physical Examination
   GENERAL: Conversant, appropriate. Oriented x3. Mood, affect
   appropriate.
   HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were pink, no
   pallor or cyanosis of the oral mucosa. No xanthalesma.
   NECK: Supple with JVP below clavicle.
   CARDIAC:  irregularly irregular rhythm, normal S1, S2. Harsh III/VI
   crescendo decresendo systolic murmur radiating to carotids. No thrills,
   lifts.
   LUNGS: No chest wall deformities, scoliosis or kyphosis. Resp were
   unlabored, no accessory muscle use. Decreased BS in bases bilaterally
   w/ scant crackles
   ABDOMEN: Soft, NTND. No HSM or tenderness. Abd aorta not enlarged by
   palpation. No abdominial bruits.
   EXTREMITIES: No c/c/e. No femoral bruits.
   SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.
   PULSES:
   Right: Carotid 2+  Popliteal 2+ DP 2+ PT 1+
   Left: Carotid 2+  Popliteal 2+ DP 2+ PT 1+
   Labs / Radiology
   201 K/uL
   12.9 g/dL
   121 mg/dL
   0.9 mg/dL
   34 mEq/L
   3.4 mEq/L
   13 mg/dL
   94 mEq/L
   136 mEq/L
   38.2 %
   7.5 K/uL
        [image002.jpg]
                             [**2176-7-14**]  01:44 PM
                             [**2176-7-15**]  05:47 AM
   WBC
   7.1
   7.5
   Hct
   39.0
   38.2
   Plt
   238
   201
   Cr
   0.9
   TropT
   0.95
   Glucose
   121
   Other labs: PT / PTT / INR:13.5/37.5/1.2, CK / CKMB /
   Troponin-T:586/17/0.95, ALT / AST:43/92, Alk Phos / T Bili:59/0.9,
   Differential-Neuts:76.8 %, Lymph:13.4 %, Mono:7.6 %, Eos:1.4 %,
   Ca++:9.7 mg/dL, Mg++:2.0 mg/dL, PO4:3.0 mg/dL
   Assessment and Plan
   ASSESSMENT AND PLAN  [**Age over 90 **] yo F w/ PMH of AS, AF p/w inferior MI from OSH
   for cath. She is currently hemodynamically stable and chest pain free.
   .
   # CORONARIES: Patient initially with STEs on ekg by EMS, but have
   resolved since. She has had one episode of CP yesterday AM. Given the
   repeated nature of chest pain, it is wise to proceed with cardiac
   catheterization.
   - Cath today
   - TTE after cath this AM
   - Asa 325 mg and Plavix 75 mg (as patient is not likely a candidate for
   CABG, given her age and severe AS)
   - No need for further anticoagulation as patient received enoxaparin in
   OSH for 48 hour duration.
   - Monitor for CP, if not resolved with morphine, low dose NTG
   gtt...must be careful with AS.
   - EKG in AM
   - Atorvastatin 80, Lisinopril 5 mg daily
   - metoprolol 75 [**Hospital1 **] up titrate to HR < 70
   .
   # PUMP: Patient with no signs of fluid overload. Patient w/report of
   flash pulmonary edema in OSH with CP. Resolved with diuresis.
   - TTE in AM only if clinically unstable s/p cath
   - Furosemide prn for s/sx of fluid overload/flash
   .
   # RHYTHM: H/O of atrial fibrillation rate controlled on atenolol.
   Currently in NSR. CHADS2 score 3.
   -Monitor on telemetry
   -Replete lytes prn
   - likely start warfarin after cath
   .
   # Hypertension: Stable, currently normotensive
   - Metoprolol 75 [**Hospital1 **]
   .
   # GERD: Stable
   - Hold pantoprazole given interaction with clopidogrel.
   - Start Ranitidine
   .
   # Macular Degneration: Stable
   - Continue prenisololone 1% 5 mL OS [**Hospital1 **]
   .
   .
   FEN: Regular, low salt, NPO p MN
   .
   ACCESS: PIV's
   .
   PROPHYLAXIS:
   -DVT ppx with SubQ heparin
   -Pain management with tylenol
   -Bowel regimen with colace/senna
   .
   CODE: Confirmed full
   .
   COMM: HCP [**Name (NI) **] [**Name (NI) 512**] (Nephew) [**Telephone/Fax (1) 7530**]
   .
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2176-7-14**] 01:30 PM
   20 Gauge - [**2176-7-15**] 06:19 AM
   Prophylaxis:
   DVT: subQ heparin
   Stress ulcer: on ranitidine
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   Attending
s Note
   Agree with dr.[**Last Name (STitle) 6948**]
s note.Reviewed data and examined Pt.
   Agree that CAD is more likely cause for Sx.Proceed with Cath today.
   Spent 45mins on case.
   [**First Name4 (NamePattern1) **] [**Last Name (NamePattern1) 4877**]
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Name (NI) 4877**]
   on:[**2176-7-15**] 11:13 ------

2176-07-16 02:25:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   cath with stent x 3 to RCA, post-cath check completed at 2 AM,
   diuresing well, BP stable.
   Allergies:
   Penicillins
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Ranitidine (Prophylaxis) - [**2176-7-15**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2176-7-15**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2176-7-16**] 02:25 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 35.9
C (96.6
   HR: 80 (67 - 85) bpm
   BP: 151/75(95) {100/43(61) - 189/133(145)} mmHg
   RR: 15 (14 - 21) insp/min
   SpO2: 96%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 76.4 kg (admission): 76.4 kg
                  Total In:
                                                                  1,296 mL
                  PO:
                                                                    750 mL
                  TF:
   IVF:
                                                                    546 mL
   Blood products:
   Total out:
                                                                  2,402 mL
                                                                    250 mL
   Urine:
                                                                  2,402 mL
                                                                    250 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,106 mL
                                                                   -250 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///30/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   201 K/uL
   12.9 g/dL
   97 mg/dL
   0.7 mg/dL
   30 mEq/L
   3.5 mEq/L
   13 mg/dL
   95 mEq/L
   135 mEq/L
   38.2 %
   7.5 K/uL
        [image002.jpg]
                             [**2176-7-14**]  01:44 PM
                             [**2176-7-15**]  05:47 AM
   WBC
   7.1
   7.5
   Hct
   39.0
   38.2
   Plt
   238
   201
   Cr
   0.9
   0.7
   TropT
   0.95
   Glucose
   121
   97
   Other labs: PT / PTT / INR:13.5/37.5/1.2, CK / CKMB /
   Troponin-T:586/17/0.95, ALT / AST:43/92, Alk Phos / T Bili:59/0.9,
   Differential-Neuts:76.8 %, Lymph:13.4 %, Mono:7.6 %, Eos:1.4 %,
   Ca++:9.4 mg/dL, Mg++:2.2 mg/dL, PO4:2.5 mg/dL
   Assessment and Plan
   [**Age over 90 **] yo F w/ PMH of AS, AF p/w inferior MI from OSH for cath. She is
   currently hemodynamically stable and chest pain free.
   # CORONARIES: Patient initially with STEs on ekg by EMS, but have
   resolved since. She has had one episode of CP yesterday AM. Given the
   repeated nature of chest pain, it is wise to proceed with cardiac
   catheterization.
   - Cath today
   - TTE after cath this AM
   - Asa 325 mg and Plavix 75 mg (as patient is not likely a candidate for
   CABG, given her age and severe AS)
   - No need for further anticoagulation as patient received enoxaparin in
   OSH for 48 hour duration.
   - Monitor for CP, if not resolved with morphine, low dose NTG
   gtt...must be careful with AS.
   - EKG in AM
   - Atorvastatin 80, Lisinopril 5 mg daily
   - metoprolol 75 [**Hospital1 **] up titrate to HR < 70
   # PUMP: Patient with no signs of fluid overload. Patient w/report of
   flash pulmonary edema in OSH with CP. Resolved with diuresis.
   - TTE in AM only if clinically unstable s/p cath
   - Furosemide prn for s/sx of fluid overload/flash
   .
   # RHYTHM: H/O of atrial fibrillation rate controlled on atenolol.
   Currently in NSR. CHADS2 score 3.
   -Monitor on telemetry
   -Replete lytes prn
   - likely start warfarin after cath
   .
   # Hypertension: Stable, currently normotensive
   - Metoprolol 75 [**Hospital1 **]
   # GERD: Stable
   - Hold pantoprazole given interaction with clopidogrel.
   - Start Ranitidine
   # Macular Degneration: Stable
   - Continue prenisololone 1% 5 mL OS [**Hospital1 **]
   FEN: Regular, low salt, NPO p MN
   ACCESS: PIV's
   PROPHYLAXIS:
   -DVT ppx with SubQ heparin
   -Pain management with tylenol
   -Bowel regimen with colace/senna
   .
   CODE: Confirmed full
   .
   COMM: HCP [**Name (NI) **] [**Name (NI) 512**] (Nephew) [**Telephone/Fax (1) 7530**]
   .
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2176-7-14**] 01:30 PM
   20 Gauge - [**2176-7-15**] 06:19 AM
   Prophylaxis:
   DVT: subQ heparin
   Stress ulcer: on ranitidine
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2176-7-15**] 06:19 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2176-07-16 07:42:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   cath with stent x 3 to RCA, post-cath check completed at 2 AM,
   diuresing well, BP stable
   Patient did well overnight.  No complaints- denied chest pain,
   shortness of breath, jaw pain.
   Cath check- normal
   Allergies:
   Penicillins
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Ranitidine (Prophylaxis) - [**2176-7-15**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2176-7-15**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2176-7-16**] 07:40 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.5
   Tcurrent: 36.1
C (97
   HR: 79 (72 - 86) bpm
   BP: 87/67(71) {87/43(60) - 189/133(145)} mmHg
   RR: 17 (12 - 21) insp/min
   SpO2: 99%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 76.4 kg (admission): 76.4 kg
                  Total In:
                                                                  2,246 mL
                  PO:
                                                                    750 mL
                  TF:
   IVF:
                                                                  1,496 mL
   Blood products:
   Total out:
                                                                  2,402 mL
                                                                    450 mL
   Urine:
                                                                  2,402 mL
                                                                    450 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -156 mL
                                                                   -450 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   Physical Examination
   GENERAL: Conversant, appropriate. Oriented x3. Mood, affect
   appropriate.
   HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were pink, no
   pallor or cyanosis of the oral mucosa. No xanthalesma.
   NECK: Supple with JVP below clavicle.
   CARDIAC:  Irregularly irregular rhythm.  S2. Harsh III/VI crescendo
   decresendo systolic murmur radiating to carotids. No thrills, lifts.
   LUNGS: No chest wall deformities, scoliosis or kyphosis. Resp were
   unlabored, no accessory muscle use.
   ABDOMEN: Soft, NTND. No HSM or tenderness. Abd aorta not enlarged by
   palpation. No abdominial bruits.
   EXTREMITIES: No c/c/e. No femoral bruits.  No hematoma/erythema/fluid
   discharge on R femoral cath site.
   SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.
   PULSES:
   Right: Carotid 2+  Popliteal 2+ DP 2+ PT 1+
   Left: Carotid 2+  Popliteal 2+ DP 2+ PT 1+
   Labs / Radiology
   218 K/uL
   11.7 g/dL
   110 mg/dL
   0.7 mg/dL
   31 mEq/L
   4.0 mEq/L
   11 mg/dL
   98 mEq/L
   136 mEq/L
   35.2 %
   7.3 K/uL
        [image002.jpg]
                             [**2176-7-14**]  01:44 PM
                             [**2176-7-15**]  05:47 AM
                             [**2176-7-16**]  03:56 AM
   WBC
   7.1
   7.5
   7.3
   Hct
   39.0
   38.2
   35.2
   Plt
   238
   201
   218
   Cr
   0.9
   0.7
   0.7
   TropT
   0.95
   Glucose
   121
   97
   110
   Other labs: PT / PTT / INR:13.4/38.8/1.1, CK / CKMB /
   Troponin-T:277/9/0.95, ALT / AST:43/92, Alk Phos / T Bili:59/0.9,
   Differential-Neuts:76.8 %, Lymph:13.4 %, Mono:7.6 %, Eos:1.4 %,
   Ca++:9.0 mg/dL, Mg++:2.0 mg/dL, PO4:3.0 mg/dL
   Assessment and Plan
   [**Age over 90 **] yo F w/ PMH of AS, AF p/w inferior MI from OSH for cath. She is
   currently hemodynamically stable and chest pain free.
   # CORONARIES: Patient initially with STEs on ekg by EMS, but have
   resolved since. She has had one episode of CP yesterday AM. Given the
   repeated nature of chest pain, it is wise to proceed with cardiac
   catheterization.
   - Cathed yesterday-  Initial angiography showed 3 vessel CAD.  1.  90%
   stenosis in distal RCA  2.  80% stenosis in LAD.  3.  LCX had distal
   occlusion.  Stent placed in mid-distal RCA.  Final angiography showed
   normal flow, resolution of the dissection and no residual stenosis.
   -TTE today to evaluate EF given fluctuating BPs this AM
   - Asa 325 mg and Plavix 75 mg (as patient is not likely a candidate for
   CABG, given her age and severe AS)
   - No need for further anticoagulation as patient received enoxaparin in
   OSH for 48 hour duration.
   - Monitor for CP, if not resolved with morphine, low dose NTG
   gtt...must be careful with AS.
   - EKG in AM
   - Atorvastatin 80, Lisinopril 5 mg daily
   - metoprolol 75 [**Hospital1 **] up titrate to HR < 70
   # PUMP: Patient with no signs of fluid overload. Patient w/report of
   flash pulmonary edema in OSH with CP. Resolved with diuresis.
   - Fluctuating BPs overnight and this AM- will get TTE today
   - Got lasix 40mg x 1 last night after cath- put out 1.2 L.  Decreased
   UOP this AM.  Will monitor her this morning before giving her lasix
   again.
   - Furosemide prn for s/sx of fluid overload/flash
   .
   # RHYTHM: H/O of atrial fibrillation rate controlled on atenolol.
   Currently in NSR. CHADS2 score 3.
   -Monitor on telemetry
   -Replete lytes prn
   - consider starting warfarin- will discuss with PCP
   .
   # Hypertension: Stable, currently normotensive
   - Metoprolol 50 [**Hospital1 **]
   - consider decreasing dose to 25mg [**Hospital1 **] if pressures are too low
   .
   # GERD: Stable
   - Hold pantoprazole given interaction with clopidogrel.
   - On Ranitidine
   # Macular Degneration: Stable
   - Continue prenisololone 1% 5 mL OS [**Hospital1 **]
   FEN: Regular, low salt, NPO p MN
   ACCESS: PIV's
   PROPHYLAXIS:
   -DVT ppx with SubQ heparin
   -Pain management with tylenol
   -Bowel regimen with colace/senna
   .
   CODE: Confirmed full
   .
   COMM: HCP [**Name (NI) **] [**Name (NI) 512**] (Nephew) [**Telephone/Fax (1) 7530**]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2176-7-15**] 06:19 AM
   Prophylaxis:
   DVT: heparin SQ
   Stress ulcer: colace, senna
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   Attending
s Note.
   I reviewed dr.[**Last Name (STitle) 7570**]
s note,examined Pt and agree with Rx plan.
   Appears that Aortic stenosis is not severe and her angina is due to
   CAD.Will maximize Med Rx.
   Spent 45 mins on case.
   [**First Name4 (NamePattern1) **] [**Last Name (NamePattern1) 4877**]
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Name (NI) 4877**]
   on:[**2176-7-16**] 18:51 ------